US03947580
A mixture of 117.1 g. (1.0 mol.) of phenylacetonitrile and 326 ml. (2.4 mol.) of ethyl oxalate was added to an ethanol solution of sodium ethoxide [prepared by dissolving 23.8 g. (1.08 g. -atom) of sodium in 500 ml. of absolute ethanol] and refluxed for two hours. After cooling, diluting with 2500 ml. of water and extracting with ether, the solution was acidified with acetic acid. The solid was removed by filtration and washed with water to give ethyl 3-cyano-3-phenylpyruvate, m.p. 127°-129°.

reactant | phenylacetonitrile | 1.0 mol | C1(=CC=CC=C1)CC#N | C8H7N
reactant | ethyl oxalate | 2.4 mol | C(C(=O)[O-])(=O)OCC
reactant | sodium ethoxide | 500 ml, 23.8 g | [O-]CC.[Na+]
reactant | sodium | 1.08 g | [Na] | Na
solvent | ethanol | C(C)O | C2H6O
product | ethyl 3-cyano-3-phenylpyruvate | C(#N)C(C(C(=O)OCC)=O)C1=CC=CC=C1 | C12H11NO3
